US08809539B2
To a solution of bis(2-hydroxyethyl)benzylamine (19.5 g 0.1 mol) in nitromethane (150 mL) cooled with a water/ice bath is added thionyl chloride (60 mL). The mixture is stirred at room temperature for 2 h, then at 80° C. for 1 h 30. After cooling again with a water/ice bath, diisopropyl oxyde (350 mL) is added, causing the hydrochloride to precipitate. This is filtrated, rinsed with diisopropyl oxide and dried to give bis(2-chloroethyl)benzylamine hydrochloride.

reactant | bis(2-hydroxyethyl)benzylamine | 0.1 mol, 19.5 g | OCCN(CC1=CC=CC=C1)CCO | C11H17NO2
reactant | thionyl chloride | 60 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride | Cl | ClH
solvent | nitromethane | 150 mL | [N+](=O)([O-])C | CH3NO2
product | bis(2-chloroethyl)benzylamine hydrochloride | Cl.ClCCN(CC1=CC=CC=C1)CCCl | InChI=1S/C11H15Cl2N.ClH/c12-6-8-14(9-7-13)10-11-4-2-1-3-5-11;/h1-5H,6-10H2;1H
